US06417212B1
A. 2-(4-Dimethylthiocarbamoyloxy-phenoxy)-2-methyl-propionic acid ethyl ester
A DMF (100 mL) solution of 2-(4-hydroxyphenoxy)-2-methyl propionic acid ethyl ester (15.2 g, 67.7 mmol) and DABCO (15.2 g, 135.5 mmol) was charged dropwise with N,N-dimethylthiocarbamoyl chloride (16.7 g, 135.5 mmol) in 20 mL DMF over 15 min. The reaction was stirred at room temperature for 18 h and then quenched with water. The reaction was partitioned between water (1L) and ethyl acetate (500 mL) and the organic layer washed with iN HCl (500 mL). After drying (MgSO4) and concentration, the crude product was obtained as a tan oil. Purification by flash chromatography (15% ethyl acetate/hexane) provided the product (15.8 g, 75%) as a pale yellow oil: 1H NMR (CDCl3) δ1.32 (t, 3H), 1.65 (s, 6H), 3.37 (s, 3H), 3.50 (s, 3H), 4.30 (q, 2H), 6.93 (dd, 4H); MS (m/e) 312.

reactant | 2-(4-hydroxyphenoxy)-2-methyl propionic acid ethyl ester | 67.7 mmol, 15.2 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)O)=O | C12H16O4
reactant | DABCO | 135.5 mmol, 15.2 g | C1CN2CCN1CC2 | C6H12N2
reactant | N,N-dimethylthiocarbamoyl chloride | 135.5 mmol, 16.7 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(4-Dimethylthiocarbamoyloxy-phenoxy)-2-methyl-propionic acid ethyl ester | 15.8 g, 75% | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OC(N(C)C)=S)=O | C15H21NO4S
